US04960775
A stirred solution of ethyl (E)-5-hydroxy-7-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl) -3-oxohept-6-enoate [0.32 g; prepared as described in Reference Example 1(i)]in methanol (10 ml) under an atmosphere of argon was cooled to 0° C and treated with sodium borohydride (15.2 mg). The solution was stirred for 15 minutes and then it was poured into a mixture of ice and water (50 ml). The resulting mixture was extracted with diethyl ether (100 ml) and then with ethyl acetate (2×50 ml). The combined extracts were dried over magnesium sulphate, evaporated and subjected to flash chromatography on silica gel, using as eluant a mixture of petroleum ether (b.p. 40-60° C) and diethyl ether (1:1 v/v), to give ethyl (E)-3,5-dihydroxy-7-(3-isopropyl-1-phenylpyrrolo[2.1-a]phthalazin-2-yl)-hept -6-enoate (0.26 g) in the form of a yellow gum. [NMR (in a mixture of CDCl3 and D2O): 1.28 (3 H, t, J=7 Hz), 1.4-1.7 (2 H, m), 1.52 (6 H, d, J=7 Hz), 2.40-2.48 (2 H, m), 3.8 (1H, septet, J=7 Hz), 4.08-4.14 (3 H, m), 4.28-4.42 (1 H, m), 5.31 and 5.36 (1 H, two dd, J=16 Hz, 6 Hz), 6.63 and 6.65 (1 H, two dd, J=16 Hz, 1 Hz), 7.22-7.64 (9 H, m), 8.24 (1 H, s)].

reactant | ethyl (E)-5-hydroxy-7-(3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazin-2-yl) -3-oxohept-6-enoate | OC(CC(CC(=O)OCC)=O)\C=C\C=1C(=C2N(N=CC3=CC=CC=C23)C1C(C)C)C1=CC=CC=C1 | C29H30N2O4
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium borohydride | 15.2 mg | [BH4-].[Na+]
solvent | water | 50 ml | O | H2O
product | ethyl (E)-3,5-dihydroxy-7-(3-isopropyl-1-phenylpyrrolo[2.1-a]phthalazin-2-yl)-hept -6-enoate | 0.26 g | OC(CC(=O)OCC)CC(\C=C\C=1C(=C2N(N=CC3=CC=CC=C23)C1C(C)C)C1=CC=CC=C1)O | C29H32N2O4
